US08242151B2
2-ethoxy-7-methyl-3H-imidazo[4,5-b]pyridine
2,3-Diamino-4-methylpyridine (U.S. Pat. No. 5,332,744; 2.00 g, 16.2 mmol) and tetraethoxymethane (15.0 mL, 71.7 mmol) were mixed, and the mixture was stirred at 150° C. for 2 hr. The mixture was cooled to room temperature, diisopropyl ether (15 mL) was added thereto and the precipitated solid was collected by filtration to give the title compound (1.96 g, 68%).

reactant | 2,3-Diamino-4-methylpyridine | NC1=NC=CC(=C1N)C | C6H9N3
reactant | tetraethoxymethane | 71.7 mmol, 15.0 mL | C(C)OC(OCC)(OCC)OCC | C9H20O4
reactant | diisopropyl ether | 15 mL | C(C)(C)OC(C)C | C6H14O
product | 2-ethoxy-7-methyl-3H-imidazo[4,5-b]pyridine | 1.96 g, 68% | C(C)OC1=NC=2C(=NC=CC2C)N1 | C9H11N3O
